US09447106B2
To a solution of 5-amino-1-(2-formyl-5-nitrophenyl)-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide (400 mg, 0.9 mmol) in 5 mL of CH3OH and 5 mL of DCM was added HOAc (1 drops). After stirring at RT for 16 hr, the mixture was concentrated and purified by chromatography column on silica gel eluting with PE/EA to afford 240 mg (63%) of 8-nitro-2-(4-phenoxyphenyl)pyrazolo[1,5-a]quinazoline-3-carboxamide as a yellow solid. MS (ESI) m/e [M+1]+ 425.8.

reactant | 5-amino-1-(2-formyl-5-nitrophenyl)-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide | 0.9 mmol, 400 mg | NC1=C(C(=NN1C1=C(C=CC(=C1)[N+](=O)[O-])C=O)C1=CC=C(C=C1)OC1=CC=CC=C1)C(=O)N | C23H17N5O5
solvent | CH3OH | 5 mL | CO | CH4O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | HOAc | 1 drops | CC(=O)O | C2H4O2
product | 8-nitro-2-(4-phenoxyphenyl)pyrazolo[1,5-a]quinazoline-3-carboxamide | 240 mg, 63% | [N+](=O)([O-])C1=CC=C2C=NC=3N(C2=C1)N=C(C3C(=O)N)C3=CC=C(C=C3)OC3=CC=CC=C3 | C23H15N5O4
